US07709500B2
N-{(2R)-3-[4-(3,4-Dichlorophenoxy)piperidin-1-yl]-2-hydroxypropyl}-6-fluoroimidazo[1,2-a]pyridine-2-carboxamide
Prepared as described in Example 1 from (2R)-1-amino-3-[4-(3,4-dichlorophenoxy)piperidin-1-yl]propan-2-ol (0.1 g) and 6-fluoroimidazo[1,2-a]pyridine-2-carboxylic acid (0.056 g). Title compound obtained as white solid (0.076 g).

reactant | (2R)-1-amino-3-[4-(3,4-dichlorophenoxy)piperidin-1-yl]propan-2-ol | 0.1 g | NC[C@H](CN1CCC(CC1)OC1=CC(=C(C=C1)Cl)Cl)O | C14H20Cl2N2O2
reactant | 6-fluoroimidazo[1,2-a]pyridine-2-carboxylic acid | 0.056 g | FC=1C=CC=2N(C1)C=C(N2)C(=O)O | C8H5FN2O2
product | N-{(2R)-3-[4-(3,4-Dichlorophenoxy)piperidin-1-yl]-2-hydroxypropyl}-6-fluoroimidazo[1,2-a]pyridine-2-carboxamide | ClC=1C=C(OC2CCN(CC2)C[C@@H](CNC(=O)C=2N=C3N(C=C(C=C3)F)C2)O)C=CC1Cl | C22H23Cl2FN4O3
